US05703096
56(a) 5-(4-{2-[1-(4-Biphenylyl)ethylideneaminooxy]-ethoxy}benzyl)-3-trityloxazolidine-2,4-dione
Following a procedure similar to that described in Example 3(a), but using 0.23 g of 2-[1-(4-biphenylyl)-ethylideneaminooxy]ethanol (prepared as described in Preparation 15), 0.40 g of 5-(4-hydroxybenzyl)-3-trityloxazolidine-2,4-dione, 0.40 g of tributylphosphine and 0.50 g of 1,1'-(azodicarbonyl)dipiperazine, 0.31 g of the title compound was obtained as a crystalline powder, melting at 193°-195° C.

reactant | 2-[1-(4-biphenylyl)-ethylideneaminooxy]ethanol | 0.23 g | C1(=CC=C(C=C1)C(C)=NOCCO)C1=CC=CC=C1 | C16H17NO2
reactant | 5-(4-hydroxybenzyl)-3-trityloxazolidine-2,4-dione | 0.40 g | OC1=CC=C(CC2C(N(C(O2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C29H23NO4
reactant | tributylphosphine | 0.40 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1'-(azodicarbonyl)dipiperazine | 0.50 g | N(=NC(=O)N1CCNCC1)C(=O)N1CCNCC1 | C10H18N6O2
product | 5-(4-{2-[1-(4-Biphenylyl)ethylideneaminooxy]-ethoxy}benzyl)-3-trityloxazolidine-2,4-dione | 0.31 g | C1(=CC=C(C=C1)C(C)=NOCCOC1=CC=C(CC2C(N(C(O2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1)C1=CC=CC=C1 | C45H38N2O5
